US06764589B1
After 1 F/mol of furan, the proportion of furan in GC-percent by area had dropped from 22.9% to 18.8%, while the proportion of dimethoxydihydrofuran had increased from 32.2% to 34.5%. At the same time, 1.4% of 2,5-dimethoxytetrahydrofuran were formed.

reactant | furan | O1C=CC=C1 | C4H4O
reactant | dimethoxydihydrofuran | COC1=C(CCO1)OC | C6H10O3
product | 2,5-dimethoxytetrahydrofuran | 1.4% | COC1OC(CC1)OC | C6H12O3
